* C:\Users\bln15\Documents\GitHub\openlab-drone\LTSpice-schematics\pwm_shenanigans.asc
* Generated by LTspice 24.1.10 for Windows.
R1 M_PWM 0 10k
R2 N003 M_PWM 100
V1 M_PWM 0 PULSE(0 3.3 0 500n 500n 16u 33u 10)
V2 V_BAT 0 4
R3 V_BAT N001 0.5
L1 N001 N002 25µ Rser=1m
D1 N002 V_BAT 1N5819
M1 N002 N003 0 0 Si4410DY
.model D D
.lib C:\Users\bln15\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\bln15\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 200u 0 10u
* motor simulation
.backanno
.end
